US07850872B2
As shown in the following Reaction 1, 300 mg (1.37 mmol) of 4-iodoaniline was melted in 5 mL of trimethylamine, and 0.20 mL (1.46 mmol, 1.07 eq) of trimethylsilylacetylene, 4 mg (0.0068 mmol, 0.5 mol %) of dichlorobis-(triphenylphosphine)palladium(II), and 2 mg (0.013 mmol, 1 mol %) of copper iodide were added thereto, and then the reaction solution was stirred under nitrogen atmosphere for 12 hours. Next, the reaction solution was filtered with ether, and was extracted with 10 mL of 2M ammonium chloride aqueous solution 2 times and with 1M sodium chloride aqueous solution 1 time. The organic solvent layer was dehydrated with magnesium sulfate, filtered, and then distilled under reduced pressure. The compound distilled under reduced pressure was purified with a column chromatography (mobile phase volume ratio; ethylacetate:n-hexane=1:4) to obtain 246 mg of 4-trimethylsilylethynylaniline with the yield of 98%. NMR data of the obtained compound is as follows. [1H NMR (400 MHz, CDCl3): δ 0.24-0.27 (m, 9H), 3.81 (s, 2H), 6.58 (d, 2H), 7.29 (d, 2H)].

reactant | 4-iodoaniline | 1.37 mmol, 300 mg | IC1=CC=C(N)C=C1 | C6H6IN
reactant | trimethylsilylacetylene | 1.46 mmol, 0.20 mL, 1.07 eq | C[Si](C)(C)C#C | C5H10Si
solvent | trimethylamine | 5 mL | CN(C)C | C3H9N
catalyst | dichlorobis-(triphenylphosphine)palladium(II) | 0.0068 mmol, 4 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper iodide | 0.013 mmol, 2 mg | [Cu](I)I
product | 4-trimethylsilylethynylaniline | 246 mg, yield of 98% | C[Si](C)(C)C#CC1=CC=C(N)C=C1 | C11H15NSi
